US06528525B1
(b) 3-Nitropyridine-6-ylbenzoic acid
In a similar manner to that described in Example 2, a reaction was carried out using methyl 3-nitropyridine-6-ylbenzoate (545 mg), which is the product of Reference example 32(a), and aqueous sodium hydroxide solution (1N, 3.16 ml) at 90° C. and the reaction mixture was treated to afford the title compound (370 mg) as colorless crystals.

reactant | methyl 3-nitropyridine-6-ylbenzoate | 545 mg | [N+](=O)([O-])C=1C=NC(=CC1)C1=C(C(=O)OC)C=CC=C1 | C13H10N2O4
reactant | sodium hydroxide | 1N, 3.16 ml | [OH-].[Na+]
product | 3-Nitropyridine-6-ylbenzoic acid | 370 mg | [N+](=O)([O-])C=1C=NC(=CC1)C1=C(C(=O)O)C=CC=C1 | C12H8N2O4
